US06350892B1
7-[2-(N-Dodecyl-N-methylamino)ethoxy]-3,4-dihydro-2H-1-benzopyran-2-one
7-[2-(N-Dodecyl-N-methylamino)ethoxy]-2H-1-benzopyran-2-one (5.62 g, 14.5 mmol) in ethyl acetate was hydrogenated over palladium on activated carbon uder 30 psi and afforded the title compound (4.7 g, 84%) as a white solid.

reactant | 7-[2-(N-Dodecyl-N-methylamino)ethoxy]-2H-1-benzopyran-2-one | 14.5 mmol, 5.62 g | C(CCCCCCCCCCC)N(C)CCOC1=CC2=C(C=CC(O2)=O)C=C1 | C24H37NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | 7-[2-(N-Dodecyl-N-methylamino)ethoxy]-3,4-dihydro-2H-1-benzopyran-2-one | 4.7 g, 84% | C(CCCCCCCCCCC)N(C)CCOC1=CC2=C(CCC(O2)=O)C=C1 | C24H39NO3
